US08377970B2
N-{6-[5-cyclopropyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]pyridin-3-yl}nicotinamide hydrochloride
Following the general procedure-1, N-{6-[5-cyclopropyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]pyridin-3-yl}nicotinamide (200 mg) was prepared from nicotinic acid (132 mg, 1.2 mmol) and intermediate 36 (290 mg, 0.67 mmol) as a white solid and dissolved in THF. Saturated HCl in diethyl ether was added to this solution at 0° C. and stirred for 15 min. Solid that separated out was filtered and dried to give the title compound (192 mg) as a white solid M.P.: 211-213° C. 1H-NMR (δ ppm, DMSO-d6, 400 MHz): 11.11 (s, 1H), 9.27 (d, J 2, 1H), 8.98 (d, J 2, 1H), 8.89-8.86 (m, 1H), 8.59-8.51 (m, 1H), 8.48-8.46 (m, 1H), 7.83 (d, J 8.8, 1H), 7.79-7.73 (m, 1H), 6.65 (s, 1H), 2.58-2.50 (m, 1H), 1.04-0.94 (m, 2H), 0.81-0.74 (m, 2H). MS (m/z): 371.90 [M−H]−.

reactant | N-{6-[5-cyclopropyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]pyridin-3-yl}nicotinamide | 200 mg | C1(CC1)C1=CC(=NN1C1=CC=C(C=N1)NC(C1=CN=CC=C1)=O)C(F)(F)F | C18H14F3N5O
reactant | nicotinic acid | 1.2 mmol, 132 mg | C(C1=CN=CC=C1)(=O)O | C6H5NO2
reactant | HCl | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | N-{6-[5-cyclopropyl-3-(trifluoromethyl)-1H-pyrazol-1-yl]pyridin-3-yl}nicotinamide hydrochloride | 192 mg | Cl.C1(CC1)C1=CC(=NN1C1=CC=C(C=N1)NC(C1=CN=CC=C1)=O)C(F)(F)F | InChI=1S/C18H14F3N5O.ClH/c19-18(20,21)15-8-14(11-3-4-11)26(25-15)16-6-5-13(10-23-16)24-17(27)12-2-1-7-22-9-12;/h1-2,5-11H,3-4H2,(H,24,27);1H
